US08895777B2
Preparation of 5-(2-Chloro-phenoxy)-pentanoic acid
A 500 ml 3-neck round bottom flask equipped with a magnetic stirrer bar and a reflux condenser was charged with 12.86 (100 mmol) 2-chloro phenol, 23.49 g (110 mmol) ethyl 5-bromovalerate, 16.60 g (120 mmol) potassium carbonate and 300 mL of 2-butanone. The slurry heated to reflux. After stirring for 20 hr at reflux (completeness confirmed by HPLC), the reaction mixture was cooled to 25° C., filtered and concentrated. The residue was taken up in of water (300 ml) and treated with 100 ml (200 mmol) 2N aqueous sodium hydroxide. This suspension was heated to reflux for 2 hours until it turned to a solution. The solution was cooled to 25° C. Ice was added to further cool to 0° C. The yellow solution was acidified with aqueous 105 ml 2N hydrochloric acid. The resulting white solid was isolated by filtration washing with water twice then hexanes twice to yield 22.24 g (97%) of the desired product, Mp 71-72° C. Combustion analysis: Found: C, 57.66%; H, 5.82%, Cl, 15.5%; Calculated: C, 57.78%; H, 5.73%; Cl, 15.5%; 1H NMR (d6-DMSO): δ 12.1, broad s, 1H (COOH); δ 7.40, dd, 1H (aryl H); δ 7.25, m, 1H (aryl H); δ 7.10, dd, 1H (aryl H); δ 6.9, m, 1H (aryl A); δ 4.0, t, 2H (CH2 α ArO); δ 2.3, t, 2H (CH2 α COOH); δ 1.7, m, 4H (rest of CH2's).

reactant | 2-chloro phenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | ethyl 5-bromovalerate | 110 mmol, 23.49 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 120 mmol, 16.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 200 mmol, 2N, 100 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 105 ml | Cl | ClH
solvent | 2-butanone | 300 mL | CC(CC)=O | C4H8O
product | 5-(2-Chloro-phenoxy)-pentanoic acid | 22.24 g, 97% | ClC1=C(OCCCCC(=O)O)C=CC=C1 | C11H13ClO3
